US04268510
5-Methoxycarbonyl-2-nitrobenzamide (28 g.) was dissolved in methanol (600 ml.), 10% palladium-on-charcoal catalyst (3 g.) was added, and the mixture was hydrogenated for 6 hours at about 35° C. The catalyst was filtered off, extracted with methanol (350 ml.) at reflux temperature under an atmosphere of nitrogen for 20 minutes, and filtered again. Both filtrates were evaporated to dryness, and the combined residues were crystallised from water (3 l.) to give 5-methoxycarbonylanthranilamide, m.p. 188°-193° C.

reactant | 5-Methoxycarbonyl-2-nitrobenzamide | 28 g | COC(=O)C=1C=CC(=C(C(=O)N)C1)[N+](=O)[O-] | C9H8N2O5
solvent | methanol | 600 ml | CO | CH4O
catalyst | palladium-on-charcoal | 3 g | [Pd] | Pd
product | 5-methoxycarbonylanthranilamide | COC(=O)C1=CC=C(C(C(=O)N)=C1)N | C9H10N2O3
